US06251936B1
4-(9-Bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4yl)-phenol
Aqueous potassium hydroxide (6.0 mL, 6.0 mmol) was added to a stirred, room temperature solution of acetic acid 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester (0.48 g, 1.14 mmol) in THF (15 mL)/methanol (10 mL). After 1 h, the organic solvents were removed, water was added, the reaction mixture was acidified with 10% HCl and the resulting solid was washed with water and triturated with pet. ether and then dried in vacuo to provide the title compound as a white solid (0.32 g, 73%): mp: 165-168° C.; NMR (DMSO-d6); δ9.68 (s, 1H), 8.17 (d, J=8 Hz, 1H), 7.62 (ddd, J=8, 6, 1 Hz, 1H), 7.50 (d, J=8 Hz, 1H), 7.44 (ddd, J=8, 7, 1 Hz, 1H), 7.13 (d, J=9 Hz, 2H), 6.91 (d, J=9 Hz, 2H), 2.42 (d, J=1 Hz, 3H), 1.59 (d, J=1 Hz, 3H); MS (EI): 1 bromine isotope pattern 382 (95%, MI), 384 (100%); Anal. Calc. for C20H15BrOS: C, 62.67; H, 3.95; N, 0.00. Found: C, 62.40; H, 3.91; N, 0.09.

reactant | potassium hydroxide | 6.0 mmol, 6.0 mL | [OH-].[K+]
reactant | acetic acid 4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester | 1.14 mmol, 0.48 g | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC=C(C=C2)OC(C)=O | C22H17BrO2S
reactant | methanol | 10 mL | CO | CH4O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-(9-Bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4yl)-phenol | 0.32 g, 73% | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC=C(C=C2)O | C20H15BrOS
